US06255305B1
a) 6-Chloro-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
3,6-Dichloropyridazine (20 g, 134 mmol) was suspended in xylene (200 ml) with benzoylhydrazine (20.1 g, 1.1 mol eq) and triethylamine hydrochloride (20.3 g, 1.1 mol eq) and the reaction mixture was heated under reflux for 2 hours. The solvent was removed under high vacuum and the residue was purified by chromatography on silica gel using 1% methanol in dichloromethane as eluent to give the required product (17.1 g mp=199° C.). 1H NMR (250 MHz, CDCl3) δ7.16 (1 H, d, J=9.7 Hz), 7.53-7.61 (3 H, m), 8.16 (1 H, d, J=9.7 Hz), 8.44-8.50 (2 H, m); MS (ES+) m/e 231 [MH]+.

reactant | 3,6-Dichloropyridazine | 134 mmol, 20 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | benzoylhydrazine | 1.1 mol, 20.1 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | triethylamine hydrochloride | 1.1 mol, 20.3 g | Cl.C(C)N(CC)CC
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-Chloro-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 17.1 g | ClC=1C=CC=2N(N1)C(=NN2)C2=CC=CC=C2 | C11H7ClN4
